US08871767B2
N-[5-(6-chloroimidazo[1,2-a]pyrazin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide
A 20 mL vial is charged with 5-(6-chloroimidazo[1,2-a]pyrazin-2-yl)-2-(trifluoromethyl)aniline (0.813 g, 2.6 mmol), acetonitrile (14 mL) and pyridine (0.420 mL). The mixture is added trimethylacetyl chloride (0.640 mL, 5.2 mmol) and stirred for 20 min at 80° C. The acetonitrile solution is concentrated onto celite and purified by silica gel chromatography (0-100% EtOAc in Hexanes) to give the title compound (256 mg, 25% yield). LCMS m/z=397.5 [M+H]+, tR=2.62 min. (compound same as Example 85)

reactant | 5-(6-chloroimidazo[1,2-a]pyrazin-2-yl)-2-(trifluoromethyl)aniline | 2.6 mmol, 0.813 g | ClC=1N=CC=2N(C1)C=C(N2)C=2C=CC(=C(N)C2)C(F)(F)F | C13H8ClF3N4
reactant | acetonitrile | 14 mL | C(C)#N | C2H3N
reactant | trimethylacetyl chloride | 5.2 mmol, 0.640 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 0.420 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-(6-chloroimidazo[1,2-a]pyrazin-2-yl)-2-(trifluoromethyl)phenyl]-2,2-dimethyl-propanamide | 256 mg, 25% yield | ClC=1N=CC=2N(C1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C(F)(F)F | C18H16ClF3N4O
